US03978045
To a suspension of 1.0 gram of N2 -dansyl-L-arginine methyl ester dihydrochloride monohydrate in 1 ml of tetrahydrofuran was added 3 ml of ethylamine with cooling. The mixture was allowed to stand in a sealed tube at room temperature for 3 days. After the excess amine was removed by evaporation, the residue was poured into 50 ml of water to give a precipitate. Recrystallization from 50% aqueous methanol afforded N2 -dansyl-N-ethyl-L-argininamide monohydrate in 93% yield; mp. 220°-222°C.

reactant | N2 dansyl-L-arginine methyl ester dihydrochloride monohydrate | 1.0 gram | N#N.O.Cl.Cl.COC([C@@H](NS(=O)(=O)C1=CC=CC=2C(N(C)C)=CC=CC12)CCCNC(N)=N)=O
reactant | ethylamine | 3 ml | C(C)N | C2H7N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | N2 dansyl-N-ethyl-L-argininamide monohydrate | 93% yield | N#N.O.S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)N[C@@H](CCCNC(N)=N)C(=O)NCC | InChI=1S/C20H30N6O3S.N2.H2O/c1-4-23-19(27)16(10-7-13-24-20(21)22)25-30(28,29)18-12-6-8-14-15(18)9-5-11-17(14)26(2)3;1-2;/h5-6,8-9,11-12,16,25H,4,7,10,13H2,1-3H3,(H,23,27)(H4,21,22,24);;1H2/t16-;;/m0../s1
